US07790720B2
4-(3-chloropropoxy)benzenecarbothioamide ax71 (0.9 g, 4 mmole, 1 eq) is dissolved in propionitrile (20 ml) and 1,3-dichloroacetone (0.6 g, 4.7 mmole, 1.17 eq) is added. The mixture is refluxed 1 h at 100° C. then concentrated to dryness. The crude material is taken up in dichloromethane, washed with water and dried over magnesium sulfate. The residue is triturated in diisopropylether and filtered off to give 1.1 g of 4-(chloromethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-thiazole ax72 as a white solid.

reactant | 4-(3-chloropropoxy)benzenecarbothioamide | ClCCCOC1=CC=C(C=C1)C(N)=S | C10H12ClNOS
reactant | 1,3-dichloroacetone | 4.7 mmole, 0.6 g, 1.17 eq | ClCC(=O)CCl | C3H4Cl2O
solvent | propionitrile | 20 ml | C(CC)#N | C3H5N
product | 4-(chloromethyl)-2-[4-(3-chloropropoxy)phenyl]-1,3-thiazole | 1.1 g, Yield: 91% | ClCC=1N=C(SC1)C1=CC=C(C=C1)OCCCCl | C13H13Cl2NOS
